US04618683
trans-3a,4,5,9b-Tetrahydro-6,7-dimethoxy-1H-benz[e]isoindole-1-(2H)-one
A solution of 3,4-dimethoxy-N-(2-propenyl)benzocyclobutene-1-carboxamide (13.2 g, 0.053 mole) and o-dichlorobenzene (600 mL) was stirred at reflux for 15 hours. After cooling to 0°, a solid was filtered, washed with hexane, and dried (in-vacuo) to yield 6.8 g white solid. cis And trans isomers were separated by HPLC to obtain: 1.80 g trans isomer; mp 185°-7°; M+ 247; and 3.50 g cis isomer; mp 219°-21°; M+ 247.

reactant | 3,4-dimethoxy-N-(2-propenyl)benzocyclobutene-1-carboxamide | 0.053 mole, 13.2 g | COC1=C(C=CC=2C(=CC21)C(=O)NCC=C)OC | C14H15NO3
solvent | o-dichlorobenzene | 600 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | trans-3a,4,5,9b-Tetrahydro-6,7-dimethoxy-1H-benz[e]isoindole-1-(2H)-one | 6.8 g | COC1=C(C=CC=2[C@@H]3C(NC[C@H]3CCC21)=O)OC | C14H17NO3
